US07723345B2
6.42. Synthesis of (2S)-2-Amino-3-(4-(2-amino-6-(2,2,2-trifluoro-1-(3′-methylbiphenyl-2-yl)ethoxy)pyrimidin-4-yl)phenyl)propanoic acid
4-Chloro-6-(2,2,2-trifluoro-1-(3′-methylbiphenyl-2-yl)ethoxy)pyrimidin-2-amine (0.16 g, 0.406 mmol), L-p-boronophenylalanine (10 mg, 0.487 mmol), Pd(PPh3)2Cl2 (17 mg, 0.024 mmol), Na2CO3 (95 mg, 0.894 mmol), MeCN (2.5 ml) and water (2.5 ml) were heated at 150° C. for 5 minutes in a microwave. The mixture was concentrated and purified via prep HPLC to give 105 mg of the title compound. M+1=523; 1H NMR (CD3OD) δ 7.85 (d, 2H), 7.70 (d, 1H), 7.44 (m, 4H), 7.31 (t, 1H), 7.21 (m, 2H), 7.10 (m, 2H), 6.87 (q, 1H), 6.84 (s, 1H), 4.25 (t, 1H), 3.30 (m, 1H), 3.18 (m, 1H).

reactant | 4-Chloro-6-(2,2,2-trifluoro-1-(3′-methylbiphenyl-2-yl)ethoxy)pyrimidin-2-amine | 0.406 mmol, 0.16 g | ClC1=NC(=NC(=C1)OC(C(F)(F)F)C1=C(C=CC=C1)C1=CC(=CC=C1)C)N | C19H15ClF3N3O
reactant | Na2CO3 | 0.894 mmol, 95 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | MeCN | 2.5 ml | CC#N | C2H3N
catalyst | Pd(PPh3)2Cl2 | 0.024 mmol, 17 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | 2.5 ml | O | H2O
product | (2S)-2-Amino-3-(4-(2-amino-6-(2,2,2-trifluoro-1-(3′-methylbiphenyl-2-yl)ethoxy)pyrimidin-4-yl)phenyl)propanoic acid | 105 mg | N[C@H](C(=O)O)CC1=CC=C(C=C1)C1=NC(=NC(=C1)OC(C(F)(F)F)C1=C(C=CC=C1)C1=CC(=CC=C1)C)N | C28H25F3N4O3
